US06291432B1
(R)-N-(2-methylbenzyl)-3-{(2S,3S)-2-hydroxy-3-[(S)-2-(methoxyacetyl)amino-3-methylbutanoyl]amino-4-phenylbutanoyl}-5,5-dimethyl-1,3-thiazolidine-4-carboxamide (MeO-CH2-CO-Val-Apns-Dmt-NHBzl(2-Me))
Methoxyacetic acid (23 μl), HOBt (48 mg), and EDC.HCl (63 mg) were added to a solution of H-Val-Apns-Dmt-NHBzl(2-Me) (162 mg) obtained in the step 2 of Example 8 in DMF (5 ml) and the mixture was stirred overnight. After the addition of ethyl acetate, the reaction mixture was washed with 3% Na2CO3, 1N HCl, and 5% NaCl and dried over MgSO4. After filtration and concentration, the residue was recrystallized from ethyl acetate/n-hexane to obtain the title compound (149 mg).

reactant | Methoxyacetic acid | 23 μl | COCC(=O)O | C3H6O3
reactant | HOBt | 48 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDC.HCl | 63 mg | CCN=C=NCCCN(C)C.Cl
reactant | (R)-N-(2-methylbenzyl)-3-{(2S,3S)-3-(L-valyl)amino-2-hydroxy-4-phenylbutanoyl}-5,5-dimethyl-1,3-thiazolidine-4carboxamide | 162 mg | CC1=C(CNC(=O)[C@H]2N(CSC2(C)C)C([C@H]([C@H](CC2=CC=CC=C2)NC([C@@H](N)C(C)C)=O)O)=O)C=CC=C1 | C29H40N4O4S
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (R)-N-(2-methylbenzyl)-3-{(2S,3S)-2-hydroxy-3-[(S)-2-(methoxyacetyl)amino-3-methylbutanoyl]amino-4-phenylbutanoyl}-5,5-dimethyl-1,3-thiazolidine-4-carboxamide | 149 mg | CC1=C(CNC(=O)[C@H]2N(CSC2(C)C)C([C@H]([C@H](CC2=CC=CC=C2)NC([C@H](C(C)C)NC(COC)=O)=O)O)=O)C=CC=C1 | C32H44N4O6S
